US04225315
Preparation of 1-(2',6'-dimethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one
About 200 mg. of 1-(2',6'-dimethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one hydrochloride is introduced into a gas chromatograph hypo vial and dissolved in 1 ml. of acetonitrile. To the solution is added 0.2 ml. of DMF DMA reagent. The vial is sealed with crimper and heated at 105° C. for 15 minutes in an oven. Seven vials are made. The contents of the vials are then put into a long-neck round bottom flask and evaporated to dryness by a flask evaporator. The solid mass is dissolved in a mixture of 30 ml. of CH Cl3 and 20 ml. of water and shaken vigorously in a 60 ml. separatory funnel. The aqueous layer is discarded and 20 ml. of water is added and shaken. The CH Cl3 layer is then taken off and about 10 g. of anhydrous Na2SO4 is added, the CH Cl3 solution is decanted into a flask and evaporated to dryness. The solid material is dissolved in pentanone- 2 (about 80 ml.) at 70° C. The solution is concentrated and crystallizes upon cooling. The crystals are collected and dried in a desiccator with P2O5 with vacuum for one hour.

reactant | 1-(2',6'-dimethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one hydrochloride | Cl.CC1=C(C(=CC=C1)C)N1C(N=C(N=C1)NC)=O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | DMF DMA | CN(C)C=O.CC(=O)N(C)C
product | 1-(2',6'-dimethylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one | CC1=C(C(=CC=C1)C)N1C(N=C(N=C1)NC)=O | C12H14N4O
